* C:\Users\LENOVO\Documents\LTspice\180nm_PMOS_LDO.asc
* Generated by LTspice 26.0.1 for Windows.
V1 V_IN 0 3.3V
V2 N001 0 1V
R1 V_OUT N002 20k
I1 V_OUT 0 PULSE(1m 50m 0.2m 1u 1u 0.2m 0.5m)
R2 N002 0 10k
M2 V_OUT V_GATE V_IN V_IN MY_PMOS L=180n W=5000u
C1 V_OUT 0 10µf Rser=50m
X§U1 N002 N001 V_IN 0 V_GATE level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\LENOVO\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1ms startup
.model MY_PMOS PMOS(Vto=-0.7 Kp=200u Lambda=0.05)
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\LENOVO\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
